US06159990
c. 3-(4-Acetoxy-4-phenylpiperidin-1-yl)propylamine
A mixture of N-benzyloxycarbonyl-3-(4-acetoxy-4-phenylpiperidin-1-yl)propylamine (3.0 g, 7.3 mmol) and 10% Pd-C (0.3 g) in 1M ammonia in methanol(50 mL) was hydrogenated at 70 psi at room temperature for 4 h. The catalyst was removed by filtration and the solvent was evaporated to leave the product as a viscous oil (2.01 g, 99%), the 1H-NMR showed it to be very pure and was used in the next step without any purification.

reactant | N-benzyloxycarbonyl-3-(4-acetoxy-4-phenylpiperidin-1-yl)propylamine | 7.3 mmol, 3.0 g | C(C1=CC=CC=C1)OC(=O)NCCCN1CCC(CC1)(C1=CC=CC=C1)OC(C)=O | C24H30N2O4
solvent | ammonia | 1M | N | H3N
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd-C | 0.3 g | [Pd] | Pd
product | 3-(4-Acetoxy-4-phenylpiperidin-1-yl)propylamine | 2.01 g, 99% | C(C)(=O)OC1(CCN(CC1)CCCN)C1=CC=CC=C1 | C16H24N2O2
